US07576099B2
tert-Butyl 2-fluoro-4-formylbenzoate
To a stirred solution of tert-butyl 4-bromo-2-fluorobenzoate (1.5 g, 5.45 mmol) in THF (70 mL) at −100° C. under argon was carefully added BuLi (2.5 M in hexane, 2.3 mL, 5.75 mmol). The mixture was kept at −100° C. to −80° C. for 1 h and then DMF (1.0 mL) in THF (5 mL) was added. After 1 h, the mixture was warmed to 0° C. and quenched by adding sat. aq NH4Cl, and extracted with EtOAc. The organic layer was separated, washed with brine, dried (MgSO4), and concentrated under vacuum. The residue was purified by column chromatography on silica gel using EtOAc/hexane (0-10%) as eluent to give the product (750 mg, 61%) as a white solid.

reactant | tert-butyl 4-bromo-2-fluorobenzoate | 5.45 mmol, 1.5 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C11H12BrFO2
reactant | BuLi | 5.75 mmol, 2.5 M, 2.3 mL | [Li]CCCC
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-fluoro-4-formylbenzoate | 750 mg, 61% | FC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C=O | C12H13FO3
